US07977344B2
6-Amino-2-(butylamino)-9-[4-(2,2-dimethyltetrahydro-2H-Pyran-4-yl)butyl]-7,9-dihydro-8H-purin-8-one
4M HCl in 1,4-dioxane (3 ml, 12.00 mmol) was added in one portion to a stirred solution of N2-butyl-9-[4-(2,2-dimethyltetrahydro-2H-pyran-4-yl)butyl]-8-(methyloxy)-9H-purine-2,6-diamine (130 mg, 0.321 mmol) in methanol (3 ml) at room temperature and the mixture stirred under nitrogen overnight. The mixture was then concentrated and the residue dissolved in MeOH:DCM (1:15 ml) and loaded onto a 2 g aminopropyl SPE cartridge. The cartridge was washed with MeOH:DCM (1:1, 3 column volumes) and the desired fractions were concentrated in vacuo to give the title compound as a yellow solid (102 mg).

reactant | HCl | 4M | Cl | ClH
reactant | 1,4-dioxane | 12.00 mmol, 3 ml | O1CCOCC1 | C4H8O2
reactant | N2-butyl-9-[4-(2,2-dimethyltetrahydro-2H-pyran-4-yl)butyl]-8-(methyloxy)-9H-purine-2,6-diamine | 0.321 mmol, 130 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCCCC1CC(OCC1)(C)C)OC)N | C21H36N6O2
solvent | methanol | 3 ml | CO | CH4O
product | 6-Amino-2-(butylamino)-9-[4-(2,2-dimethyltetrahydro-2H-Pyran-4-yl)butyl]-7,9-dihydro-8H-purin-8-one | 102 mg | NC1=C2NC(N(C2=NC(=N1)NCCCC)CCCCC1CC(OCC1)(C)C)=O | C20H34N6O2
